US04604390
N-[2-[2-(Diethylamino)ethyl]-3,9-dimethoxy-2H[1]benzothiopyrano[4,3,2-cd]indazol-5-yl]-1,2-ethanediamine, hydrobromide salt
Reaction of a solution of 3.6 g (0.0095 mol) of 5-amino-N,N-diethyl-3,9-dimethoxy-2H[1]benzothiopyrano[4,3,2-cd]indazole-2-ethanamine and 5.8 g (0.0283 mol) of 2-bromoethylamine, hydrobromide, in 30 ml of EtOH as described in Example 38 gave 1.8 g of product.

reactant | 5-amino-N,N-diethyl-3,9-dimethoxy-2H[1]benzothiopyrano[4,3,2-cd]indazole-2-ethanamine | 0.0095 mol, 3.6 g | NC1=C2C=3C(=NN(C3C(=C1)OC)CCN(CC)CC)C1=C(S2)C=CC(=C1)OC | C21H26N4O2S
reactant | 2-bromoethylamine, hydrobromide | 0.0283 mol, 5.8 g | Br.BrCCN
solvent | EtOH | 30 ml | CCO | C2H6O
product | N-[2-[2-(Diethylamino)ethyl]-3,9-dimethoxy-2H[1]benzothiopyrano[4,3,2-cd]indazol-5-yl]-1,2-ethanediamine, hydrobromide salt | 1.8 g | Br.C(C)N(CCN1N=C2C=3C(=C(C=C(C13)OC)NCCN)SC1=C2C=C(C=C1)OC)CC | InChI=1S/C23H31N5O2S.BrH/c1-5-27(6-2)11-12-28-22-18(30-4)14-17(25-10-9-24)23-20(22)21(26-28)16-13-15(29-3)7-8-19(16)31-23;/h7-8,13-14,25H,5-6,9-12,24H2,1-4H3;1H
